### PR TITLE
[Merged by Bors] - feat: open mapping theorem for surjective morphisms between locally compact groups

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Group/OpenMapping.lean [hunk 1]
```diff
@@ -0,0 +1,123 @@
...
+
+/-- Consider a sigma-compact group acting continuously and transitively on a Baire space. Then
+the orbit map is open around the identity. It follows in `isOpenMap_smul_of_sigmaCompact` that it
+is open around any point. -/
+@[to_additive "Consider a sigma-compact additive group acting continuously and transitively on a
+Baire space. Then the orbit map is open around zero. It follows in
+`isOpenMap_vadd_of_sigmaCompact` that it is open around any point."]
+theorem smul_singleton_mem_nhds_of_sigmaCompact
+    {U : Set G} (hU : U ∈ 𝓝 1) (x : X) : U • {x} ∈ 𝓝 x := by
+  /- Consider a small closed neighborhood `V` of the identity. Then the space is covered by
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Group/OpenMapping.lean:34]:
```suggestion
  /- Consider a small closed neighborhood `V` of the identity. Then the group is covered by
```
Unless you mean that the space is covered by the `gᵢ V • x`.

File: Mathlib/Topology/Algebra/Group/OpenMapping.lean [hunk 2]
```diff
@@ -0,0 +1,123 @@
...
+      apply IsCompact.image
+      · exact (isCompact_compactCovering G n).inter_right (V_closed.smul g)
+      · exact continuous_id.smul continuous_const
+    · apply eq_univ_iff_forall.2 (fun y ↦ ?_)
+      obtain ⟨h, rfl⟩ : ∃ h, h • x = y := exists_smul_eq G x y
+      obtain ⟨n, hn⟩ : ∃ n, h ∈ K n := exists_mem_compactCovering h
+      obtain ⟨g, gs, hg⟩ : ∃ g ∈ s, h ∈ g • V := exists_set_mem_of_union_eq_top s _ hs _
+      simp only [smul_singleton, mem_iUnion, mem_image, mem_inter_iff, Prod.exists, Subtype.exists,
+        exists_prop]
+      exact ⟨n, g, gs, h, ⟨hn, hg⟩, rfl⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Group/OpenMapping.lean:66]: I haven't tried but I think this could be simpler if you just stick to manipulating unions. I think combining [Set.iUnion_inter](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Lattice.html#Set.iUnion_inter), [iSup_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice.html#iSup_prod) could get you there by rewriting only.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Group/OpenMapping.lean:66]: Oh actually we have no formulation of transitivity well-suited for that, so you'd have to add that too...

Comment (sgouezel) [reply Mathlib/Topology/Algebra/Group/OpenMapping.lean:66]: I feel like a direct proof where you just follow your nose is probably the easiest to read. So even if there was a good sequence of rewrites, I think I'd rather stick to the current proof.

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 3]
```diff
@@ -1522,6 +1522,33 @@ theorem TopologicalGroup.t2Space_of_one_sep (H : ∀ x : G, x ≠ 1 → ∃ U 
...
+    ∃ V ∈ 𝓝 1, IsClosed V ∧ V⁻¹ = V ∧ V * V ⊆ U := by
+  have A : (fun p : G × G => p.1 * p.2) ⁻¹' U ∈ 𝓝 ((1, 1) : G × G) :=
+    continuousAt_fst.mul continuousAt_snd (by simpa)
+  simp only [nhds_prod_eq, Filter.mem_prod_self_iff, prod_subset_iff, mem_preimage] at A
+  rcases A with ⟨V, V_mem, hV⟩
+  rcases exists_mem_nhds_isClosed_subset V_mem with ⟨W, W_mem, W_closed, hW⟩
+  refine ⟨W ∩ W⁻¹, Filter.inter_mem W_mem (inv_mem_nhds_one G W_mem), W_closed.inter W_closed.inv,
+    by simp [inter_comm], ?_⟩
+  calc
+  W ∩ W⁻¹ * (W ∩ W⁻¹)
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Topology/Algebra/Group/Basic.lean:1538]: I could do that, but it wouldn't help here since the point is to get a neighborhood which is both symmetric and closed, and for this I also need a regular space. I could have a lemma like that in a space with `[ContinuousInv G] [RegularSpace G]`, but that feels quite articifical.

[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Group/Basic.lean:1535]: Oh right you would need to know that the symmetrization preserves closedness for my idea to work. It does of course but that's definitely not worth adding.

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 4]
```diff
@@ -1522,6 +1522,21 @@ theorem TopologicalGroup.t2Space_of_one_sep (H : ∀ x : G, x ≠ 1 → ∃ U 
...
+    ∃ V ∈ 𝓝 1, IsClosed V ∧ V⁻¹ = V ∧ V * V ⊆ U := by
+  rcases exists_nhds_one_split hU with ⟨V, V_mem, hV⟩
+  rcases exists_mem_nhds_isClosed_subset V_mem with ⟨W, W_mem, W_closed, hW⟩
+  refine ⟨W ∩ W⁻¹, Filter.inter_mem W_mem (inv_mem_nhds_one G W_mem), W_closed.inter W_closed.inv,
+    by simp [inter_comm], ?_⟩
+  calc
+  W ∩ W⁻¹ * (W ∩ W⁻¹)
+    ⊆ W * W := mul_subset_mul (inter_subset_left _ _) (inter_subset_left _ _)
+  _ ⊆ V * V := mul_subset_mul hW hW
+  _ ⊆ U := by rintro - ⟨y, z, hy, hz, rfl⟩; exact hV y hy z hz
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1538]: Maybe it's a bit cleaner to use [exists_open_nhds_one_mul_subset](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Monoid.html#exists_open_nhds_one_mul_subset) instead of `exists_nhds_one_split` actually, because it gives you `V * V ⊆ U`. But this is fine too of course.

File: Mathlib/Topology/Algebra/Group/OpenMapping.lean [hunk 5]
```diff
@@ -0,0 +1,127 @@
...
+    apply (continuous_mul_right g).continuousAt.preimage_mem_nhds
+    apply hU.mem_nhds
+    simpa using gU
+  obtain ⟨t, ht, t_open, gt⟩ : ∃ t, t ⊆ V • {g • x} ∧ IsOpen t ∧ g • x ∈ t := by
+    have : V • {g • x} ∈ 𝓝 (g • x) := smul_singleton_mem_nhds_of_sigmaCompact A _
+    rw [mem_nhds_iff] at this
+    exact this
+  refine ⟨t, ht.trans ?_, t_open, gt⟩
+  rintro - ⟨t, -, ht, rfl, rfl⟩
+  exact ⟨t • g, by simpa using ht, by simp [← smul_assoc]⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Group/OpenMapping.lean:113]:
```suggestion
  simp_rw [isOpenMap_iff_nhds_le, Filter.le_map_iff]
  intro g U hU
  have : (· • x) = (· • (g • x)) ∘ (· * g⁻¹) := by 
    ext g
    simp [smul_smul]
  rw [this, image_comp, ← smul_singleton]
  apply smul_singleton_mem_nhds_of_sigmaCompact
  simpa using isOpenMap_mul_right g⁻¹ |>.image_mem_nhds hU
```

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+
